* SPICE3 file created from XNOR.ext - technology: scmos

.option scale=0.09u
.include TSMC_180nm.txt
.global GND Gnd gnd 

Vdd VDD 0 dc 1.8 

VA A 0 dc 0
VB B 0 dc 0

M1000 OUT m1_52_52# GND Gnd CMOSN w=14 l=4
+  ad=126 pd=46 as=1413 ps=494
M1001 VDD m1_52_52# OUT CMOS_in_0/w_0_0# CMOSP w=14 l=4
+  ad=1728 pd=582 as=126 ps=46
M1002 VDD XOR_0/OR_2_0/a_n35_n16# m1_52_52# XOR_0/OR_2_0/w_40_n2# CMOSP w=15 l=5
+  ad=0 pd=0 as=135 ps=48
M1003 XOR_0/OR_2_0/a_n35_n16# XOR_0/m1_65_n48# GND Gnd CMOSN w=15 l=5
+  ad=210 pd=88 as=0 ps=0
M1004 XOR_0/OR_2_0/a_n35_n16# XOR_0/m1_65_n48# XOR_0/OR_2_0/a_n35_5# XOR_0/OR_2_0/w_n1_n2# CMOSP w=15 l=5
+  ad=135 pd=48 as=270 ps=96
M1005 m1_52_52# XOR_0/OR_2_0/a_n35_n16# GND Gnd CMOSN w=15 l=5
+  ad=105 pd=44 as=0 ps=0
M1006 VDD XOR_0/m1_68_43# XOR_0/OR_2_0/a_n35_5# XOR_0/OR_2_0/w_n42_n2# CMOSP w=15 l=5
+  ad=0 pd=0 as=0 ps=0
M1007 XOR_0/OR_2_0/a_n35_n16# XOR_0/m1_68_43# GND Gnd CMOSN w=15 l=5
+  ad=0 pd=0 as=0 ps=0
M1008 VDD XOR_0/m1_n101_n52# XOR_0/AND_2_1/a_9_10# XOR_0/AND_2_1/w_n1_1# CMOSP w=20 l=7
+  ad=0 pd=0 as=360 ps=116
M1009 XOR_0/AND_2_1/a_9_10# XOR_0/m1_n101_n52# XOR_0/AND_2_1/a_10_n33# Gnd CMOSN w=18 l=7
+  ad=180 pd=56 as=360 ps=112
M1010 VDD XOR_0/AND_2_1/a_9_10# XOR_0/m1_65_n48# XOR_0/AND_2_1/w_101_1# CMOSP w=20 l=7
+  ad=0 pd=0 as=180 ps=58
M1011 XOR_0/AND_2_1/a_10_n33# A GND Gnd CMOSN w=18 l=7
+  ad=0 pd=0 as=0 ps=0
M1012 VDD A XOR_0/AND_2_1/a_9_10# XOR_0/AND_2_1/w_50_1# CMOSP w=20 l=7
+  ad=0 pd=0 as=0 ps=0
M1013 XOR_0/m1_65_n48# XOR_0/AND_2_1/a_9_10# GND Gnd CMOSN w=18 l=7
+  ad=180 pd=56 as=0 ps=0
M1014 VDD XOR_0/m1_n97_39# XOR_0/AND_2_0/a_9_10# XOR_0/AND_2_0/w_n1_1# CMOSP w=20 l=7
+  ad=0 pd=0 as=360 ps=116
M1015 XOR_0/AND_2_0/a_9_10# XOR_0/m1_n97_39# XOR_0/AND_2_0/a_10_n33# Gnd CMOSN w=18 l=7
+  ad=180 pd=56 as=360 ps=112
M1016 VDD XOR_0/AND_2_0/a_9_10# XOR_0/m1_68_43# XOR_0/AND_2_0/w_101_1# CMOSP w=20 l=7
+  ad=0 pd=0 as=180 ps=58
M1017 XOR_0/AND_2_0/a_10_n33# B GND Gnd CMOSN w=18 l=7
+  ad=0 pd=0 as=0 ps=0
M1018 VDD B XOR_0/AND_2_0/a_9_10# XOR_0/AND_2_0/w_50_1# CMOSP w=20 l=7
+  ad=0 pd=0 as=0 ps=0
M1019 XOR_0/m1_68_43# XOR_0/AND_2_0/a_9_10# GND Gnd CMOSN w=18 l=7
+  ad=180 pd=56 as=0 ps=0
M1020 XOR_0/m1_n97_39# A GND Gnd CMOSN w=14 l=4
+  ad=126 pd=46 as=0 ps=0
M1021 VDD A XOR_0/m1_n97_39# XOR_0/CMOS_in_0/w_0_0# CMOSP w=14 l=4
+  ad=0 pd=0 as=126 ps=46
M1022 XOR_0/m1_n101_n52# B GND Gnd CMOSN w=14 l=4
+  ad=126 pd=46 as=0 ps=0
M1023 VDD B XOR_0/m1_n101_n52# XOR_0/CMOS_in_1/w_0_0# CMOSP w=14 l=4
+  ad=0 pd=0 as=126 ps=46
C0 GND Gnd 2.35fF

.control
run 
tran 10u 120n 
plot v(A) v(B)+2 v(OUT)+4 
.endc 
.end